US08835472B2
N-{2-[4-(2-Cyclopentyloxy-pyrimidin-5-ylethynyl)-phenyl]-1-methyl-ethyl}-acetamide
To 33.1 mg (0.17 mmol) N-[2-(4-ethynyl-phenyl)-1-methyl-ethyl]-acetamide (I58.3) and 40.0 mg (0.17 mmol) 5-bromo-2-cyclopentyloxypyrimidine (I14.1) in 2.0 mL THF are added 11.6 mg (0.02 mmol) bis(triphenylphosphin)palladiumdichlorid, 1.57 mg (8.00 μmol) CuI and 56.0 μL (0.33 mmol) DIPEA. The reaction mixture is stirred at r.t. over night. The solvent is removed in vacuo and the residue is purified by HPLC (MeOH/H2O/TFA).

reactant | N-[2-(4-ethynyl-phenyl)-1-methyl-ethyl]-acetamide | 0.17 mmol, 33.1 mg | C(#C)C1=CC=C(C=C1)CC(C)NC(C)=O | C13H15NO
reactant | 5-bromo-2-cyclopentyloxypyrimidine | 0.17 mmol, 40.0 mg | BrC=1C=NC(=NC1)OC1CCCC1 | C9H11BrN2O
reactant | DIPEA | 0.33 mmol, 56.0 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
catalyst | bis(triphenylphosphin)palladiumdichlorid | 0.02 mmol, 11.6 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 8.00 μmol, 1.57 mg | [Cu]I
product | N-{2-[4-(2-Cyclopentyloxy-pyrimidin-5-ylethynyl)-phenyl]-1-methyl-ethyl}-acetamide | C1(CCCC1)OC1=NC=C(C=N1)C#CC1=CC=C(C=C1)CC(C)NC(C)=O | C22H25N3O2
